US05639987
Synthesis of bismuth γ-resorcylate (1/1 salt)
A 3-liter thermostatic reactor fitted with a pneumatic stirrer, a bottom valve, temperature probes, a reflux condenser and a heating system is employed for this synthesis. 900 ml of distilled water and 15.4 g of γ-resorcylic acid, that is 0.1 mole of acid, are placed in the reactor. The heterogeneous mixture is heated to 50° C. with stirring and then 31 g of bismuth oxide, that is 0.1 gram-atom of bismuth, are added portionwise over approximately 15 minutes. The suspension thus obtained is heated to 80° C. After approximately 30 minutes approximately 1500 ml of distilled water are added to permit better stirring of the suspension and the suspension is then left stirred for approximately 5 hours at 80° C. The mixture is then filtered hot and the cake obtained is then washed with 500 ml of ethanol. The product is next vacuum-dried at 60° C. over calcium chloride. At the end of reaction 24 g of bismuth γ-resorcylate are recovered.

reactant | γ-resorcylic acid | 15.4 g | C(C=1C(O)=CC=CC1O)(=O)O | C7H6O4
reactant | bismuth oxide | 31 g | [Bi]=O
reactant | bismuth | [Bi] | Bi
solvent | water | 1500 ml | O | H2O
solvent | water | 900 ml | O | H2O
product | bismuth γ-resorcylate | C(C=1C(O)=CC=CC1O)(=O)[O-].[Bi+3].C(C=1C(O)=CC=CC1O)(=O)[O-].C(C=1C(O)=CC=CC1O)(=O)[O-] | InChI=1S/3C7H6O4.Bi/c3*8-4-2-1-3-5(9)6(4)7(10)11;/h3*1-3,8-9H,(H,10,11);/q;;;+3/p-3
